US06884882B1
1-1) Preparation of 2′-deoxy-5-iodo-5′-O-(4-methoxytrityl)-uridine
2 g of 5-iodo-2′-deoxyuridine (5.65 mmole) was dissolved in 30 ml of pyridine, 5 ml of TEA and 2.16 g of MMTr-Cl (6.99 mmole) were sequentially added thereto, and stirred at room temperature for 4 hours. Then, pyridine was removed under a reduced pressure with a rotary evaporator, the residue was treated with a mixture of water and CH2Cl2, the CH2Cl2 layer was separated, dried under MgSO4, and then, CH2Cl2 was removed under a reduced pressure. The resulting residue was subjected to column chromatography (silica gel 60, 230˜400 meshes, Merck) to obtain the title compound as a pale yellow solid. The chromatography was conducted using a mixture of CH2Cl2 and methanol as an eluting solution whose mix ratio was gradually changed from 100:1 to 50:1 (v/v).

reactant | 5-iodo-2′-deoxyuridine | 5.65 mmole, 2 g | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O5
reactant | MMTr-Cl | 6.99 mmole, 2.16 g | C(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C20H17ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2′-deoxy-5-iodo-5′-O-(4-methoxytrityl)-uridine | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=C(C=C3)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C29H27IN2O6
